US06372759B1
B) N1-(6-Benzimidazolylcarbonyl)-N2-(4-t-butylbenzoyl)-1,2-benzenediamine
To a stirring solution of N2-(4-t-butylbenzoyl)-N1-(1-tosylbenzimidazol-6-ylcarbonyl)-1,2-benzenediamine (360 mg, 0.63 mmol) in THF (10 mL) was added HOBT (1.36 g, 10 mmol). After stirring for 24 h, the solvent was removed in vacuo. The residue was dissolved in dichloromethane and washed with satd aq NaHCO3. The organic phase was allowed to stand overnight, and the resulting precipitate was filtered and dried to give 140 mg (54%) of white solid.

reactant | N2-(4-t-butylbenzoyl)-N1-(1-tosylbenzimidazol-6-ylcarbonyl)-1,2-benzenediamine | 0.63 mmol, 360 mg | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C=2C=CC3=C(N(C=N3)S(=O)(=O)C3=CC=C(C)C=C3)C2)C=C1 | C32H30N4O4S
reactant | HOBT | 10 mmol, 1.36 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N1-(6-Benzimidazolylcarbonyl)-N2-(4-t-butylbenzoyl)-1,2-benzenediamine | 140 mg, 54% | N1=CNC2=C1C=C(C=C2)C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O | C25H24N4O2
